2120-12-21 08:40:00 Physician Resident Progress Note
Chief Complaint: Back Pain, AMS
   24 Hour Events:
 INVASIVE VENTILATION - START [**2120-12-20**] 12:10 PM
 EKG - At [**2120-12-20**] 09:48 PM
 LUMBAR PUNCTURE - At [**2120-12-21**] 03:48 AM
 FEVER - 102.4
F - [**2120-12-20**] 08:00 PM
   Had XRay scout for MRI.
   LP done- Clear, colorless
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2120-12-20**] 06:27 PM
   Ampicillin - [**2120-12-21**] 06:00 AM
   Acyclovir - [**2120-12-21**] 07:30 AM
   Vancomycin - [**2120-12-21**] 08:00 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2120-12-20**] 07:56 PM
   Heparin Sodium (Prophylaxis) - [**2120-12-21**] 04:18 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  intubated, sedated
   Flowsheet Data as of  [**2120-12-21**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.2
C (98.9
   HR: 87 (46 - 105) bpm
   BP: 170/51(82) {110/40(57) - 202/68(106)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,594 mL
                                                                  1,716 mL
   PO:
             TF:
   IVF:
                                                                  1,544 mL
                                                                  1,566 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                  1,045 mL
   Urine:
                                                                    645 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    949 mL
                                                                    671 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///21/
   Ve: 7.8 L/min
   Physical Examination
   Assesment: This is an 83 year-old female with a history of back pain
   and fever in the setting on known hypertension, multiple psych issues.
   Plan:
   # Fever/leukocytosis:  There is no clear cause for infection at this
   point but given the patient's significant mental status changes and
   agitation, am concerned for a CNS source.  Given history of back pain,
   will first evaluate the patient for a paraspinal/epidural abscess with
   an MRI.  Then will get LP to evaluate for meningitis.  However, given
   rapid onset and potential morbidity in this patient for a CNS
   infection, will treat with Vancomycin, ceftriaxone, acyclovir and
   ampicillin empirically now.  Other potential sources of infection
   include lower extremity open wounds and less likely endocarditis
   (murmur on exam).  No signs of pulmonary source at this time.  Though
   less likely neuroleptic malignant syndrome is also possible.
   - Empiric IV antibiotics
   - MRI Head, C/T/L spine
   - LP
   - blood and urine cultures pending
   - hold Mellaril
   # Altered mental status: Most likely secondary to infection as outline
   above, regardless of infection source, likely has delirium.  Was
   intubated due to mental status, however the patient is DNR/I.  Thus
   will extubate as soon as possible.  No clear metabolic source of
   altered mental status as hypercalcemia is mild, tox screen negative.
   - treat infection
   - limit sedating medications
   # Hypertension: Patient has poorly controlled hypertension at
   baseline.  It is unclear if patient is compliant as she is on a
   multi-drug regimen without control.  Otherwise would should  be
   evaluated for secondary causes for hypertension.
   Will start on beta-blocker and short acting ace-inhibitor at this time.
   - metoprolol, captopril
   - add rest of home meds as needed
   # Back pain: though this cannot be confirmed, the patient gave a
   history of back pain to EMS.  As above concern for paraspinal abscess
   will be evaluated with MRI.  Additionally, will repeat ECG, echo. No
   signs of aortic dissection confirmed with the radiologist.  Pancreatic
   enzymes negative as well as LFTs.  Is at high risk for MI and would
   - evaluate for infection as above.
   - no additional history per hcp, will readdress when patient alert.
   - repeat ECG
   - ROMI
   # Fungal infection: has candidal infection on skin appearance and is
   being treated topically (though HCP remarks that she thinks the patient
   has been on diflucan).
   - topical antifungals
   - anti-fungal cultures
   - consider adding fluconazole if persistent fever
   # Diabetes: On NPH and glipizide at home, will give half home dose [**Hospital1 **]
   and hold glipizide for now.
   - ISS
   - [**1-10**] NPH meds
   # Hypothyroid: continue home dose
   # Skin rash: Chronic venous statis with ?contact dermatitis.  Wound
   care, consult in AM
   Labs / Radiology
   165 K/uL
   9.2 g/dL
   173 mg/dL
   0.8 mg/dL
   21 mEq/L
   2.9 mEq/L
   12 mg/dL
   109 mEq/L
   138 mEq/L
   27.3 %
   8.9 K/uL
        [image002.jpg]
                            [**2120-12-21**]  04:12 AM
   WBC
   8.9
   Hct
   27.3
   Plt
   165
   Cr
   0.8
   Glucose
   173
   Other labs: Albumin:2.6 g/dL, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:1.7
   mg/dL
   Microbiology: URINE CULTURE (Final [**2120-12-21**]):
         GRAM NEGATIVE ROD(S).    ~1000/ML.
   [**2120-12-20**] 6:30 am BLOOD CULTURE      FROM LEFT LINE. 1 of 2   Blood
   Culture, Routine (Preliminary):   GRAM POSITIVE COCCUS(COCCI).    IN
   PAIRS AND CHAINS.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-12-20**] 12:50 PM
   20 Gauge - [**2120-12-20**] 12:50 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2120-12-22 08:02:00 Physician Resident Progress Note
Chief Complaint: low back pain
   24 Hour Events:
   - MRI Spine performed - wet read - no obvious epidural abscess, no
   vertebral abnormalities
   - ID consult - GBS could explain entire picture - (seeding back causing
   back pain) advise stopping acyclovir vanco and ampicillin; Continue CTX
   for GBS and Flagyl for ? aspiration; TTE to evaluate sbe; daily cx;
   consider cardiac etiology of back pain if MRI negative.
   - I/O - goal even; even at 1900
   - Plan to extubate in am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-12-21**] 08:00 AM
   Ceftriaxone - [**2120-12-21**] 06:00 PM
   Ampicillin - [**2120-12-21**] 06:40 PM
   Acyclovir - [**2120-12-21**] 08:00 PM
   Infusions:
   Propofol - 50 mcg/Kg/[**Year (4 digits) **]
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-12-22**] 04:44 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   nonverbal
   Flowsheet Data as of  [**2120-12-22**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 75 (55 - 91) bpm
   BP: 131/55(72) {97/34(53) - 173/96(111)} mmHg
   RR: 17 (10 - 23) insp/[**Year (4 digits) **]
   SpO2: 99%
   Heart rhythm: SA (Sinus Arrhythmia)
             Total In:
                                                                  3,675 mL
                                                                    281 mL
   PO:
             TF:
   IVF:
                                                                  3,185 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  3,735 mL
                                                                  1,050 mL
   Urine:
                                                                  3,735 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -60 mL
                                                                   -769 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 326 (326 - 416) mL
   PS : 5 cmH2O
   RR (Set): 7
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 13 cmH2O
   Plateau: 10 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 6.5 L/[**Year (4 digits) **]
   Physical Examination
   General Appearance: Well nourished, sedated, non-responsive to painful
   stimuli
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: rrr 2/6 sem, loudest at llsb, no r/g
   Respiratory / Chest: crackles bases bilatarally
   Abdominal: Soft, Partially reducible abdominal hernia
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, significant scaly rash on lower extremities with
   compression stocking on arrival.  Erythematous edges
   Labs / Radiology
   206 K/uL
   11.4 g/dL
   103 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.3 mEq/L
   12 mg/dL
   106 mEq/L
   137 mEq/L
   34.5 %
   11.0 K/uL
         [image002.jpg]
                            [**2120-12-21**]  04:12 AM
                            [**2120-12-22**]  03:11 AM
   WBC
   8.9
   11.0
   Hct
   27.3
   34.5
   Plt
   165
   206
   Cr
   0.8
   0.9
   Glucose
   173
   103
   Other labs: Albumin:2.6 g/dL, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   Assessment: This is an 83 year-old female with a history of back pain
   and fever in the setting on known hypertension, multiple psych issues.
   Plan:
   # Fever/leukocytosis/Bacteremia:  Urine and Blood cultures positive.
   Adequately covered at this time on current antibiotic regimen.  Still
   concerned over source of infection and the question of epidural abcess
   remains.  Murmur on exam concerning for endocarditis, but no peripheral
   manifestations of endocarditis. Of note, the patient
s fever has
   diminished and  Leukocytosis has resolved. D/cd Vancomycin, Acylovir
   and Ampicillin yesterday
   - Continue CTX and Flagyl (day #3)
   - f/u ID reccs
   - f/u read of MRI spine
   - continue to follow-up blood and urine cultures pending
   # Altered mental status/Psych: Most likely secondary to infection as
   outlined above.   The patient was intubated due to mental status,
   however the patient is DNR/I.  Thus will extubate as soon as possible.
   - re-start home psych meds
   - limit sedating medications
   - plan to extubate today
   # Hypertension: Pt remains hypertensive despite being on beta-blocker
   and ace-inhibitor at this time.
   - consider restarting home regimen once extubated
   # Back pain: Unable to be assessed at this time.
   - MRI as above
   # Fungal infection: chronic candidal infection being treated as
   outpatient.
   - continue topical antifungals
   - anti-fungal cultures to assess for dissemination
   - consider adding fluconazole if persistent fever
   # Diabetes: On NPH and glipizide at home, will give half home dose [**Hospital1 **]
   and hold glipizide for now as pt NPO
   - ISS
   - [**1-10**] NPH meds
   # Hypothyroid: continue home dose
   # Skin rash: Chronic venous statis with ?contact dermatitis.
   - Wound care consult pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-12-20**] 12:50 PM
   20 Gauge - [**2120-12-20**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed the note of Dr [**Last Name (STitle) 3237**] above
   and agree with the findings and plan of care.  At the time of this note
   the patient has been successfully extubated and we continue to Rx her
   for group B strep bacteremia, possibly from skin or oral source.
   Echocardiogram will be obtained.  Though awaiting the final MRI report,
   preliminary report suggests there is no epidural abscess.
   Time spent in the care of this critically ill patient: 30 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2120-12-22**] 12:29 ------

2120-12-23 07:52:00 Physician Resident Progress Note
24 Hour Events:
 INVASIVE VENTILATION - STOP [**2120-12-22**] 09:01 AM
   The following additional events occurred over the past 24 hours but
   were not recorded by Metavision:
   1)  The patient was extubated without complication.
   2)  NGT tube placed given severe observed aspiration; CXR confirmed
   adequate placement.
   3)  The patient was started on Flagyl in case of aspiration PNA, with
   concern for poor dentition and aspiration noted.
   4)  The patient's home antihypertensives were re-started, with evening
   blood pressures in the 130's systolic.
   5)  MR spine returned without evidence of paraspinal abscess or
   osteomyelitis on preliminary read.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-12-21**] 08:00 AM
   Ceftriaxone - [**2120-12-21**] 06:00 PM
   Ampicillin - [**2120-12-21**] 06:40 PM
   Acyclovir - [**2120-12-21**] 08:00 PM
   Metronidazole - [**2120-12-22**] 11:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-12-23**] 04:46 AM
   Other medications:
   Changes to medical and family history: There are no changes to the
   medical and family history noted at this time.
   Review of systems is unchanged from admission except as noted below
   Review of systems: There are no changes to the review of systems noted
   at this time.
   Flowsheet Data as of  [**2120-12-23**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 101 (76 - 107) bpm
   BP: 203/69(105) {128/43(64) - 203/123(131)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,260 mL
                                                                    806 mL
   PO:
             TF:
                                                                    113 mL
                                                                    229 mL
   IVF:
                                                                    487 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                  1,500 mL
   Urine:
                                                                  2,930 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,670 mL
                                                                   -694 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, sedated, non-responsive to painful
   stimuli
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: rrr 2/6 sem, loudest at llsb, no r/g
   Respiratory / Chest: crackles bases bilatarally
   Abdominal: Soft, Partially reducible abdominal hernia
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, significant scaly rash on lower extremities with
   compression stocking on arrival.  Erythematous edges
   Labs / Radiology
   194 K/uL
   11.0 g/dL
   115 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   12 mg/dL
   106 mEq/L
   140 mEq/L
   33.0 %
   8.3 K/uL
        [image002.jpg]
                            [**2120-12-21**]  04:12 AM
                            [**2120-12-22**]  03:11 AM
                            [**2120-12-23**]  03:48 AM
   WBC
   8.9
   11.0
   8.3
   Hct
   27.3
   34.5
   33.0
   Plt
   165
   206
   194
   Cr
   0.8
   0.9
   0.8
   Glucose
   173
   103
   115
   Other labs: PT / PTT / INR:12.9/25.0/1.1, Albumin:2.6 g/dL, Ca++:10.0
   mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Assessment: This is an 83 year-old female with a history of back pain
   and fever in the setting on known hypertension, now s/p extubation
   [**2120-11-22**].
   Plan:
   # Fever/leukocytosis/Bacteremia:   [**1-12**] Blood Cultures
   demonstrating (Final [**2120-12-20**] from ED GRAM POSITIVE COCCUS(COCCI)  in
   pairs and chains.  No evidence of epidural abcess on preliminary reads
   of MRI total spine.  Murmur on exam concerning for endocarditis, but no
   peripheral manifestations of endocarditis. Of note, the patient's fever
   has diminished and  leukocytosis has resolved. Given LP WNL, d/cd
   Vancomycin, Acylovir and Ampicillin on Friday. Urine growing out Gram
   negative rods, but under 1000 and UA clear. Therefore, low suspicion
   for true gram negative for UTI.
   - Continue   CeftriaXONE 2 g IV Q24H  Order date: [**12-20**]  CTX and
   MetRONIDAZOLE (FLagyl) 500 mg IV Q8H
   - f/u ID reccs
   - QD surveillance blood cultures per ID
   -con't f/u cultures
   -QD CXR's
   # Altered mental status/Psych: Most likely secondary to infection as
   outlined above.   Improving, but aspiration is likely in part secondary
   to inability to attend to basic operations of swollowing. Home psych
   medications have been restarted.
   -con't to monitor
   -con't psych meds, Thioridazine HCl 10 mg PO BID
   #Observed Aspiration: aspiration is likely in part secondary to
   inability to attend to basic operations of swollowing.
   -Con't NG tubes with PO medications through NG tube
   -will eventually need speech and swallow as mental status improves.
   # Hypertension: Pt was previously hypertensive, now getting medications
   through NG tube and showing improvement.
   - Captopril 25 mg PO TID (re-started [**12-22**])
   - Metoprolol Tartrate 50 mg PO BID
   # Back pain: Unable to be assessed at this time, but MRI preliminary
   negative for abscess.
   - f/u final MR read
   # Fungal infection: chronic candidal infection being treated as
   outpatient.
   - continue topical antifungals
   - anti-fungal cultures to assess for dissemination
   - consider adding fluconazole if persistent fever
   # Diabetes: On NPH and glipizide at home, has been getting half home
   dose [**Hospital1 **] as pt. has been NPO. Given that we are starting tube feeds
   this AM, should restart 100% NPH, con't ISS.
   - ISS
   - Increase NPH from [**1-10**] to 100%
   # Hypothyroid: continue home dose  Levothyroxine
   # Skin rash: Chronic venous statis with ?contact dermatitis.
   - Wound care following
   #Hyperlipidemia: Continue home Atorvastatin 40 mg PO DAILY
   #Proph: Cont Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY,
   Heparin SQ.
   #FEN: Tube Feeds to start today. QD lytes with PRN repletion.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-12-22**] 04:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-12-20**] 12:50 PM
   20 Gauge - [**2120-12-20**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-12-23 11:41:00 Physician Attending Progress Note
Chief Complaint: Fever, altered mental status, respiratory failure,
   bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient extubated yesterday. Had difficulty swallowing clear liqs and
   NG tube placed.
   MRI of spine was negative for paraspinal abscess.
   Tmax under [**Age over 90 **] yesterday. WBC improving.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2120-12-22**] 09:01 AM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-12-21**] 08:00 AM
   Ceftriaxone - [**2120-12-21**] 06:00 PM
   Ampicillin - [**2120-12-21**] 06:40 PM
   Acyclovir - [**2120-12-21**] 08:00 PM
   Metronidazole - [**2120-12-22**] 11:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-12-23**] 04:46 AM
   Metoprolol - [**2120-12-23**] 08:20 AM
   Other medications:
   atorvostatin, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-23**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 82 (77 - 107) bpm
   BP: 185/48(85) {128/43(64) - 215/123(131)} mmHg
   RR: 25 (17 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,260 mL
                                                                  1,254 mL
   PO:
             TF:
                                                                    113 mL
                                                                    381 mL
   IVF:
                                                                    487 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                  2,350 mL
   Urine:
                                                                  2,930 mL
                                                                  2,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,670 mL
                                                                 -1,096 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at LSB radiating to neck
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : rare, No(t) Bronchial: , No(t)
   Wheezes : , Diminished: throughout, No(t) Absent : , No(t) Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Erythema over both lower
   extremities
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): Opens eyes, moans, not
   responding to commands or questions, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   194 K/uL
   115 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   12 mg/dL
   106 mEq/L
   140 mEq/L
   33.0 %
   8.3 K/uL
        [image002.jpg]
                            [**2120-12-21**]  04:12 AM
                            [**2120-12-22**]  03:11 AM
                            [**2120-12-23**]  03:48 AM
   WBC
   8.9
   11.0
   8.3
   Hct
   27.3
   34.5
   33.0
   Plt
   165
   206
   194
   Cr
   0.8
   0.9
   0.8
   Glucose
   173
   103
   115
   Other labs: PT / PTT / INR:12.9/25.0/1.1, Albumin:2.6 g/dL, Ca++:10.0
   mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR [**12-22**]: kyphotic view. Allowing for difference in
   technique, probably no significant change from [**12-20**].
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ANEMIA
   FEVER
   BACTEREMIA
   Fever and WBC improving. Patient getting broad spectrum antibiotics to
   treat gram positive in blood and gram negative in the urine.
   Oxygenation has been acceptable post extubation. Patient does have
   congested cough. Repeat CXR. Getting tube feeds because of problems
   with swallowing, which may improve as mental status gets better. Echo
   today to assess for valve vegetations.
   Altered mental status likely related to toxic encephalopathy. Continue
   to observe with present therapy. Repeat swallow study as level of
   awareness improves.
   Mild anemia. No evidence of acute bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-12-22**] 04:00 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2120-12-20**] 12:50 PM
   20 Gauge - [**2120-12-20**] 12:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Not applicable
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2120-12-24 07:32:00 Physician Resident Progress Note
Chief Complaint: fevers
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2120-12-23**] 10:00 AM
   continued hypertension despite increasing meds, including restarting
   her home enalapril and doubling it from 20 QD to [**Hospital1 **], increasing
   metoprolol to TID, increasing valsartan to 160 [**Hospital1 **] and HCTZ.
   Increased ISS for consistant need for SS.
   TTE without vegetations
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-12-21**] 08:00 AM
   Ampicillin - [**2120-12-21**] 06:40 PM
   Acyclovir - [**2120-12-21**] 08:00 PM
   Ceftriaxone - [**2120-12-23**] 06:36 PM
   Metronidazole - [**2120-12-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-12-23**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2120-12-24**] 04:43 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies abd pain, cp, sob.
   Flowsheet Data as of  [**2120-12-24**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 88 (55 - 104) bpm
   BP: 205/48(92) {167/38(73) - 215/135(147)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,873 mL
                                                                    510 mL
   PO:
             TF:
                                                                  1,063 mL
                                                                    435 mL
   IVF:
                                                                    390 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  3,645 mL
                                                                    770 mL
   Urine:
                                                                  3,645 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -772 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, sedated, non-responsive to painful
   stimuli
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: rrr 2/6 sem, loudest at llsb, no r/g
   Respiratory / Chest: crackles bases bilatarally
   Abdominal: Soft, Partially reducible abdominal hernia
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, significant scaly rash on lower extremities with
   compression stocking on arrival.  Erythematous edges
   Labs / Radiology
   226 K/uL
   11.4 g/dL
   242 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.3 mEq/L
   16 mg/dL
   100 mEq/L
   139 mEq/L
   34.3 %
   7.2 K/uL
        [image002.jpg]
                            [**2120-12-21**]  04:12 AM
                            [**2120-12-22**]  03:11 AM
                            [**2120-12-23**]  03:48 AM
                            [**2120-12-24**]  03:07 AM
   WBC
   8.9
   11.0
   8.3
   7.2
   Hct
   27.3
   34.5
   33.0
   34.3
   Plt
   165
   206
   194
   226
   Cr
   0.8
   0.9
   0.8
   0.7
   Glucose
   173
   103
   115
   242
   Other labs: PT / PTT / INR:12.9/25.0/1.1, Differential-Neuts:74.4 %,
   Lymph:17.1 %, Mono:6.7 %, Eos:1.3 %, Albumin:2.6 g/dL, Ca++:9.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Assessment: This is an 83 year-old female with a history of back pain
   and fever in the setting on known hypertension, now s/p extubation
   [**2120-11-22**].
   Plan:
   # Fever/leukocytosis/Bacteremia:   [**1-12**] Blood Cultures demonstrating pan
   sensitive GBS. Surveillance cxs negative.  No evidence of epidural
   abcess, ostemyelitis or discitis on MRI.  Murmur on exam concerning for
   endocarditis, but no peripheral manifestations of endocarditis. Of
   note, the patient's fever has diminished and  leukocytosis has
   resolved. Given LP WNL, d/cd Vancomycin, Acylovir and Ampicillin on
   Friday. Urine growing out Gram negative rods, but under 1000 and UA
   clear. Therefore, low suspicion for true gram negative for UTI.
   - Continue   CeftriaXONE 2 g IV Q24H  and MetRONIDAZOLE (FLagyl) 500
   mg IV Q8H  for CAP and Aspiration
   - Plan to hold on TTE given lack of persistent fevers. In addition,
   murmur is known and GBS not tyical for endocarditis.
   - f/u ID reccs
   - QD surveillance blood cultures per ID
   -con't f/u cultures
   -QD CXR's
   # Altered mental status/Psych: Most likely secondary to infection as
   outlined above.   Improving, but aspiration is likely in part secondary
   to inability to attend to basic operations of swollowing. Home psych
   medications have been restarted.
   -con't to monitor
   -con't psych meds, Thioridazine HCl 10 mg PO BID
   #Observed Aspiration: aspiration is likely in part secondary to
   inability to attend to basic operations of swollowing. Failed S and S
   evaluation [**12-23**] [**2-10**] to poor mental status
   -Con't NG tubes with PO medications through NG tube
   -will eventually need repeat speech and swallow as mental status
   improves.
   # Hypertension: Patient remains hypertensive on enalapril 20 po bid,
   hctz 25 po daily, metoprolol 50 tid and valsartan 160 mg po tid. Max
   dose analapril, valsartan. Can increase hctz to 50 daily or metoprolol
   to 200 daily. Given psychiatric issues, a fair component of this HTN
   may be anxiety.
   - Continue enalapril, hctz, valsartan, metoprolol
   - Add clonidine patch for better BP control.
   # Back pain: MRI negative.
   - reassess back pain as mental status improves.
   # Fungal infection: chronic candidal infection being treated as
   outpatient.
   - continue topical antifungals
   - anti-fungal cultures to assess for dissemination
   - consider adding fluconazole if persistent fever
   # Diabetes: On NPH and glipizide at home, has been getting half home
   dose [**Hospital1 **] as pt. has been NPO. Given that we are starting tube feeds
   this AM, should restart 100% NPH, con't ISS.
   - ISS
   - Increase NPH from [**1-10**] to 100%
   # Hypothyroid: continue home dose  Levothyroxine
   # Skin rash: Chronic venous statis with ?contact dermatitis.
   - Wound care following
   #Hyperlipidemia: Continue home Atorvastatin 40 mg PO DAILY
   #Proph: Cont Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY,
   Heparin SQ.
   #FEN: Tube Feeds to start today. QD lytes with PRN repletion.
   # Disposition: Plan to call out to floor today
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-12-22**] 04:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-12-20**] 12:50 PM
   20 Gauge - [**2120-12-20**] 12:50 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:  extubated
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2120-12-24 11:44:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, fever, gram positive bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   BP has been elevated throughout the day despite increasing
   anti-hypertensives. Echo was negative for valvular vegetations.
   Afebrile.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2120-12-23**] 10:00 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2120-12-21**] 06:40 PM
   Acyclovir - [**2120-12-21**] 08:00 PM
   Ceftriaxone - [**2120-12-23**] 06:36 PM
   Metronidazole - [**2120-12-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-12-24**] 04:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-24**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 78 (55 - 93) bpm
   BP: 198/75(109) {167/38(73) - 220/135(163)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,873 mL
                                                                  1,063 mL
   PO:
             TF:
                                                                  1,063 mL
                                                                    668 mL
   IVF:
                                                                    390 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  3,645 mL
                                                                    970 mL
   Urine:
                                                                  3,645 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -772 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base radiating to the apex
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , Hyperresonant: , No(t) Dullness : ), (Breath
   Sounds: No(t) Clear : , Crackles : Few basilar rales, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, Erythema of lower extremities
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed, More alert and interactive
   Labs / Radiology
   11.4 g/dL
   226 K/uL
   242 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.3 mEq/L
   16 mg/dL
   100 mEq/L
   139 mEq/L
   34.3 %
   7.2 K/uL
        [image002.jpg]
                            [**2120-12-21**]  04:12 AM
                            [**2120-12-22**]  03:11 AM
                            [**2120-12-23**]  03:48 AM
                            [**2120-12-24**]  03:07 AM
   WBC
   8.9
   11.0
   8.3
   7.2
   Hct
   27.3
   34.5
   33.0
   34.3
   Plt
   165
   206
   194
   226
   Cr
   0.8
   0.9
   0.8
   0.7
   Glucose
   173
   103
   115
   242
   Other labs: PT / PTT / INR:12.9/25.0/1.1, Differential-Neuts:74.4 %,
   Lymph:17.1 %, Mono:6.7 %, Eos:1.3 %, Albumin:2.6 g/dL, Ca++:9.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR: kyphotic view. Increased interstitial markings
   bialterally.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ANEMIA
   ALTERED MENTAL STATUS
   Patient's mental status has improved. Continues on antibiotics,
   although source is not entirely clear. WBC is normal. She is afebrile.
   Hct is stable. Not at transfusion threshold.
   Doing well post extubation. Excellent O2 saturation on small amount of
   supplemental oxygen.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-12-22**] 04:00 PM 55 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-12-20**] 12:50 PM
   20 Gauge - [**2120-12-20**] 12:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 25 minutes